US08252935B2
To a solution of 4-methyl-2-(5-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester, 1g (63 mg, 0.12 mmol) in toluene (1 mL) in a sealed tube was added racemic-2-(di-t-butylphosphino)-1,1′-binaphthyl (48 mg, 0.12 mmol), Pd(O AC)2 (27 mg, 0.12 mmol), 2-methyl-piperidine (0.020 mL, 0.17 mmol). The system was flushed with nitrogen. To this was added NaOtBu (14 mg, 0.14 mmol) and heated to 100° C. for 10 minutes. The reaction was cooled to room temperature. To this was added another portion of Pd(OAC)2 (27 mg, 0.12 mmol), 2-methyl-piperidine (0. 020 mL, 0.17 mmol) and NaOtBu (14 mg, 0.14 mmol). The system was heated to 100° C. for 5 minutes, cooled to room temperature and quenched by slow addition of water. The mixture was extracted with EtOAc (3×20 mL). The organic phase was washed with saturated NaHCO3 solution and brine. The organic fraction was dried (MgSO4) and concentrated in vacuo. The crude mixture was purified by ISCO column chromatography to obtain 4-methyl-2-[5-(2-methyl-piperidin-1-yl)-4′-trifluoromethyl-biphenyl-3-yl]-pentanoic acid ethyl ester. Calcd for C27H34F3NO2 (M+H) 462.56, Found 462.3.

reactant | 4-methyl-2-(5-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)OS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C22H22F6O5S
reactant | racemic-2-(di-t-butylphosphino)-1,1′-binaphthyl | 0.12 mmol, 48 mg | C(C)(C)(C)P(C1=C(C2=CC=CC=C2C=C1)C1=CC=CC2=CC=CC=C12)C(C)(C)C | C28H31P
reactant | 2-methyl-piperidine | 0.17 mmol, 0.020 mL | CC1NCCCC1 | C6H13N
reactant | NaOtBu | 0.14 mmol, 14 mg | CC(C)(C)[O-].[Na+]
reactant | 2-methyl-piperidine | 0.17 mmol | CC1NCCCC1 | C6H13N
reactant | NaOtBu | 0.14 mmol, 14 mg | CC(C)(C)[O-].[Na+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAC)2 | 0.12 mmol, 27 mg | CC(=O)O.CC(=O)O.[Pd]
product | 4-methyl-2-[5-(2-methyl-piperidin-1-yl)-4′-trifluoromethyl-biphenyl-3-yl]-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)N1C(CCCC1)C)C1=CC=C(C=C1)C(F)(F)F)=O | C27H34F3NO2
